US05589473
(R)-2-[2-Amino-2-(3-methyl-1,2,4 -oxadiazol-5-yl)-ethylsulfanylmethyl]-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-5-methoxy-6-methyl-benzoic acid methyl ester was treated with ammonium fluoride in methanol in an analogous manner to the procedure described in Example 1 to yield (R)-2-[2-amino-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanyl -methyl]-3-hydroxy-5-methoxy-6-methyl-benzoic acid methyl ester as an amorphous foam.

reactant | (R)-2-[2-Amino-2-(3-methyl-1,2,4 -oxadiazol-5-yl)-ethylsulfanylmethyl]-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-5-methoxy-6-methyl-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1C)OC)O[Si](C(C(C)C)(C)C)(C)C)CSC[C@@H](C1=NC(=NO1)C)N)=O | C24H39N3O5SSi
reactant | ammonium fluoride | [F-].[NH4+]
solvent | methanol | CO | CH4O
product | (R)-2-[2-amino-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanyl -methyl]-3-hydroxy-5-methoxy-6-methyl-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1C)OC)O)CSC[C@@H](C1=NC(=NO1)C)N)=O | C16H21N3O5S
